US07557114B2
(b) 5-(5,6-Dihydro-4H-pyran-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
To a stirred solution of 159 mmol 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and 1.44 mmol 5-bromo-3,4-dihydro-2H-pyran (CAS: 26274-19-1) in 9 ml ethanol and 21 ml toluene was added 0.08 mmol 1,1-bis(diphenylphosphino)ferrocene dichloro palladium (II) dichloromethane adduct. The mixture was heated to 80° C. and then 10 ml of a solution of 2 M aqueous sodium carbonate was added dropwise. After stirring for a further 2 h at 80° C., the reaction mixture was diluted with 50 ml water and extracted with 3×50 ml ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography (SiO2, heptane/ethyl acetate) to yield the title compound as a yellow oil (40% yield). MS (m/e): 246.1 ([M+H−Me2C═CH2]+, 100%).

reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 159 mmol | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C | C19H28BNO4
reactant | 5-bromo-3,4-dihydro-2H-pyran | 1.44 mmol | BrC=1CCCOC1 | C5H7BrO
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 9 ml | C(C)O | C2H6O
solvent | toluene | 21 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
product | 5-(5,6-Dihydro-4H-pyran-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 40% yield | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C1=COCCC1 | C18H23NO3
